US07517532B2
Step 3: 5-(4-Fluorobenzyl)-7,8-dihydroxy-5H-pyrido[1,2-a]quinoxaline-6,10-dione
To a cold (0° C.) solution of 4-acetyl-1-(4-fluorobenzyl)-3,4-dihydro-quinoxalin-2(1H)-one (0.15 g, 0.52 mmol) in DMF (5 mL) under an atmosphere of nitrogen, a solution of lithium bis(trimethylsilyl)amide in THF (0.57 mL, 0.57 mmol) was added and stirred at the temperature for 30 min. The resultant solution was treated with diethyl oxalate (0.078 mL, 0.57 mmol), and stirred at room temperature overnight. The resultant mixture was then treated with additional lithium bis(trimethylsilyl)amide in THF (1.6 mL, 1.6 mmol) and stirred at room temperature for 6 h. The product mixture was concentrated under vacuum, and the residue partitioned between aqueous HCl and dichloromethane. The organic extract was dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to HPLC purification on C-18 stationary phase eluted with water/acetonitrile/TFA mobile phase. Collection and lyophilization of appropriate fractions provided the title compound as white solid.

reactant | 4-acetyl-1-(4-fluorobenzyl)-3,4-dihydro-quinoxalin-2(1H)-one | 0.52 mmol, 0.15 g | C(C)(=O)N1CC(N(C2=CC=CC=C12)CC1=CC=C(C=C1)F)=O | C17H15FN2O2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 0.57 mmol, 0.57 mL | C1CCOC1 | C4H8O
reactant | diethyl oxalate | 0.57 mmol, 0.078 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | THF | 1.6 mmol, 1.6 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(4-Fluorobenzyl)-7,8-dihydroxy-5H-pyrido[1,2-a]quinoxaline-6,10-dione | FC1=CC=C(CN2C(C=3N(C=4C=CC=CC24)C(C=C(C3O)O)=O)=O)C=C1 | C19H13FN2O4
